US08067457B2
To a solution of N-but-3-en-1-yl-N-(4-methoxyphenyl)acrylamide (180 mg, 0.78 mmol) in degassed methylene chloride (200 mL) was added Grubbs catalyst (32 mg, 0.039 mmol) and the mixture was heated to 40° C. overnight. All volatiles were removed and the resulting material was subjected to flash chromatography (Hexanes:EtOAc 1:1) to yield 1-(4-methoxyphenyl)-5,6-dihydropyridin-2(1H)-one (158 mg, 98%).

reactant | N-but-3-en-1-yl-N-(4-methoxyphenyl)acrylamide | 0.78 mmol, 180 mg | C(CC=C)N(C(C=C)=O)C1=CC=C(C=C1)OC | C14H17NO2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs catalyst | 0.039 mmol, 32 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | 1-(4-methoxyphenyl)-5,6-dihydropyridin-2(1H)-one | 158 mg, 98% | COC1=CC=C(C=C1)N1C(C=CCC1)=O | C12H13NO2
